US05294724
2-(p-Fluorophenyl)-4-thiocyanato-6-isopropylphenol (scheme 1, formula X)
A suspension of 70.9 g (838 mmol, 5.0 equivalents) of sodium thiocyanate in 200 ml of methanol was stirred at room temperature for 20 min. 40.0 9 (173.8 mmol, 1.0 equiv.) of 2-(p-fluorophenyl)-6-isopropylphenol were added and the mixture was stirred for 20 minutes. 14.32 ml (277.8 mmol, 1.6 equiv.) of bromine were dissolved in 50 ml of methanol (exothermic) and this solution was added dropwise at 15°-20° C. to the above reaction solution during the course of 20 minutes. The reaction mixture turned yellow and the phenol dissolved completely. The reaction mixture was stirred for 30 min. TLC (toluene/cyclohexane 1:1) showed complete conversion of the starting material (Rf =0.54). In addition to the title compound (Rf =0. 32), only a small amount of the corresponding para-bromo compound, which cochromatographed with the starting material (Rf =0. 54), was obtained as an impurity, but was able to be differentiated owing to different coloration. The reaction mixture was poured onto 400 g of ice/400 ml of 2N hydrochloric acid and extracted using 4×200 ml of toluene. The extracts were washed with aqueous sodium sulfite solution, filtered, washed with saturated sodium chloride solution, dried and concentrated in vacuo.

reactant | sodium thiocyanate | 838 mmol, 70.9 g, 5.0 equivalents | [S-]C#N.[Na+]
reactant | 2-(p-fluorophenyl)-6-isopropylphenol | FC1=CC=C(C=C1)C1=C(C(=CC=C1)C(C)C)O | C15H15FO
reactant | bromine | 277.8 mmol, 14.32 ml, 1.6 equiv. | BrBr | Br2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
solvent | methanol | 200 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
solvent | toluene cyclohexane | C1(=CC=CC=C1)C.C1CCCCC1
product | 2-(p-Fluorophenyl)-4-thiocyanato-6-isopropylphenol | FC1=CC=C(C=C1)C1=C(C(=CC(=C1)SC#N)C(C)C)O | C16H14FNOS
